* Created by KLayout

* cell CLKBUF_X1
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT CLKBUF_X1 A Y vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 \$3 A vdd vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS_mst
M$2 vdd A \$3 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 14.1,44.8 PMOS_mst
M$3 Y \$3 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $4 r0 *1 18.1,44.8 PMOS_mst
M$4 vdd \$3 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $5 r0 *1 22.1,44.8 PMOS_mst
M$5 Y \$3 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $6 r0 *1 26.1,44.8 PMOS_mst
M$6 vdd \$3 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $7 r0 *1 30.1,44.8 PMOS_mst
M$7 Y \$3 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $8 r0 *1 6.1,6.8 NMOS_mst
M$8 \$3 A gnd gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $9 r0 *1 10.1,6.8 NMOS_mst
M$9 gnd A \$3 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $10 r0 *1 14.1,6.8 NMOS_mst
M$10 Y \$3 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $11 r0 *1 18.1,6.8 NMOS_mst
M$11 gnd \$3 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $12 r0 *1 22.1,6.8 NMOS_mst
M$12 Y \$3 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $13 r0 *1 26.1,6.8 NMOS_mst
M$13 gnd \$3 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $14 r0 *1 30.1,6.8 NMOS_mst
M$14 Y \$3 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS CLKBUF_X1
